US07446102B2
Benzyl[2-({(3S)-3-{[(benzyloxy)carbonyl]amino}-6-[(tert-butoxycarbonyl)amino]hexanoyl}amino)ethyl]carbamate
549.7 mg (1.446 mmol) of HATU and 339.7 mg (2.629 mmol) of N,N-diisopropylethylamine are added to a solution of 500 mg (1.31 mmol) of (3S)-3-{[(benzyloxy)carbonyl]amino}-6-[(tert-butoxycarbonyl)amino]hexanoic acid in 25 ml of anhydrous DMF. After stirring at RT for 15 min, 333.5 mg (1.446 mmol) of benzyl (2-aminoethyl)carbamate hydrochloride are added. The reaction mixture is stirred at RT for 15 h. The solvent is then evaporated and the residue is taken up in dichloromethane. The organic phase is washed with water, dried over magnesium sulfate and concentrated. The crude product is purified by preparative HPLC.

reactant | HATU | 1.446 mmol, 549.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 2.629 mmol, 339.7 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (3S)-3-{[(benzyloxy)carbonyl]amino}-6-[(tert-butoxycarbonyl)amino]hexanoic acid | 1.31 mmol, 500 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](CC(=O)O)CCCNC(=O)OC(C)(C)C | C19H28N2O6
reactant | benzyl (2-aminoethyl)carbamate hydrochloride | 1.446 mmol, 333.5 mg | Cl.NCCNC(OCC1=CC=CC=C1)=O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | Benzyl[2-({(3S)-3-{[(benzyloxy)carbonyl]amino}-6-[(tert-butoxycarbonyl)amino]hexanoyl}amino)ethyl]carbamate | C(C1=CC=CC=C1)OC(NCCNC(C[C@H](CCCNC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O)=O | C29H40N4O7
